US06897231B2
C. 3-Phenyl-5-(phenylmethoxy)-1H-indazole
To a solution of 2-amino-5-(phenylmethoxy)phenyl phenyl ketone (2.6 g, 8.0 mmol) in 6N HCl (70 mL) at 0° C. was added a solution of sodium nitrite (NaNO2) (650 mg, 9.4 mmol) in water (2 mL). To this solution was added methanol and THF to keep it homogeneous. A solution of tin (II) chloride (SnCl2) (5.3 g, 23.6 mmol) in concentrated HCl (20 mL) was then added. The solution was stirred at room temperature overnight. The solid was then filtered and the solution concentrated and chromatographed on silica gel eluting with 20% ethyl acetate in hexane to give the title compound (1.15 g, 48% yield). 1H NMR (DMSO-d6) δ 13.1 (s, 1H), 7.95 (d, 2H), 7.56-7.48 (m, 6H), 7.44-7.3 (m, 4H), 7.14 (d, 1H), 5.12 (s, 2H); ES-MS (m/z) 301 [M+1]+.

reactant | 2-amino-5-(phenylmethoxy)phenyl phenyl ketone | 8.0 mmol, 2.6 g | C1(=CC=CC=C1)C(=O)C1=C(C=CC(=C1)OCC1=CC=CC=C1)N | C20H17NO2
reactant | sodium nitrite | 9.4 mmol, 650 mg | N(=O)[O-].[Na+]
reactant | methanol | CO | CH4O
reactant | tin (II) chloride | 23.6 mmol, 5.3 g | [Sn](Cl)Cl
solvent | HCl | 6N, 70 mL | Cl | ClH
solvent | water | 2 mL | O | H2O
solvent | HCl | 20 mL | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 3-Phenyl-5-(phenylmethoxy)-1H-indazole | 1.15 g, 48% yield | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)OCC1=CC=CC=C1 | C20H16N2O
